### PR TITLE
[Merged by Bors] - feat(Probability): lemmas about composition of kernels and measures

### PR DESCRIPTION
**Pull request by RemyDegenne**
From the LeanBandits project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/Composition/MeasureComp.lean [hunk 1]
```diff
@@ -87,6 +89,11 @@ lemma map_comp (μ : Measure α) (κ : Kernel α β) {f : β → γ} (hf : Measu
 lemma discard_comp (μ : Measure α) : Kernel.discard α ∘ₘ μ = μ .univ • Measure.dirac () := by
   ext s hs; simp [Measure.bind_apply hs (Kernel.aemeasurable _), mul_comm]
 
+lemma copy_comp_map {f : α → β} (hf : AEMeasurable f μ) :
+    Kernel.copy β ∘ₘ (μ.map f) = μ.map (fun a ↦ (f a, f a)) := by
+  rw [Kernel.copy, deterministic_comp_eq_map, AEMeasurable.map_map_of_aemeasurable (by fun_prop) hf]
+  congr
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/Composition/MeasureComp.lean]:
```suggestion
  rfl
```

File: Mathlib/Probability/Kernel/Composition/ParallelComp.lean [hunk 2]
```diff
@@ -96,6 +100,14 @@ lemma parallelComp_zero_right (κ : Kernel α β) : κ ∥ₖ (0 : Kernel γ δ)
   · ext; simp [parallelComp_apply]
   · exact parallelComp_of_not_isSFiniteKernel_left _ h
 
+lemma deterministic_parallelComp_deterministic
+    {f : α → γ} {g : β → δ} (hf : Measurable f) (hg : Measurable g) :
+    (deterministic f hf) ∥ₖ (deterministic g hg)
+      = deterministic (Prod.map f g) (hf.prodMap hg) := by
+  ext x : 1
+  rw [parallelComp_apply, deterministic_apply, deterministic_apply, deterministic_apply, Prod.map,
+    Measure.dirac_prod_dirac]
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/Composition/ParallelComp.lean]:
```suggestion
  simp_rw [parallelComp_apply, deterministic_apply, Prod.map, Measure.dirac_prod_dirac]
```

File: Mathlib/Probability/ConditionalProbability.lean [hunk 3]
```diff
@@ -184,6 +184,9 @@ lemma absolutelyContinuous_cond_univ [IsFiniteMeasure μ] : μ ≪ μ[|univ] :=
   refine absolutelyContinuous_smul ?_
   simp [measure_ne_top]
 
+lemma ae_cond_of_forall_mem (hs : MeasurableSet s) {p : Ω → Prop} (h : ∀ x ∈ s, p x) :
+    ∀ᵐ x ∂μ[|s], p x := Measure.ae_smul_measure (ae_restrict_of_forall_mem hs h) _
```
Comment (EtienneC30) [inline Mathlib/Probability/ConditionalProbability.lean]:
```suggestion
    ∀ᵐ x ∂μ[|s], p x := ae_smul_measure (ae_restrict_of_forall_mem hs h) _
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge
